US08420678B2
Ethyl 5-(4-Acetamidophenylsulfonamido)-1,3,4-thiadiazole-2-carboxylate (122E).
To a solution of p-acetamidobenzenesulfonyl chloride (1.98 g, 8.47 mmol) in pyridine (20 mL) was added ethyl 5-amino-1,3,4-thiadiazole-2-carboxylate (1.2 g, 7.06 mmol). The reaction mixture was stirred at room temperature for 4.5 h, than 2 M HCl (50 mL) was added to quench the reaction. The mixture was extracted with ethyl acetate (3×60 mL). The organic extracts were washed with water (50 mL), brine (50 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by chromatography on silica gel (70-230 mesh) eluted with CH2Cl2:methanol 19:1 to give the product as a solid, mp 201-202° C., in 73% yield (1.91 g, 5.15 mmol); 1H NMR (300 MHz, DMSO-d6) δ 1.29 (t, 3H, J=6.9 Hz), 2.08 (s, 3H), 4.37 (q, 2H, J=7.8 Hz), 7.74 (m, 4H), 10.32 (s, 1H); 13C NMR (75 MHz, DMSO-d6) δ 13.9, 14.0, 24.1, 62.9, 118.6, 127.1, 134.9, 143.2, 147.2, 157.5, 167.6, 169.0; MS (LCQ, ESI+) Calcd for C13H15N4O5S2 371.0, found 371.0 (M+H)+; HRMS (ESI+, m/z) Calcd for C13H15N4O5S2 371.0484, found 371.0472 (M+H)+.

reactant | p-acetamidobenzenesulfonyl chloride | 8.47 mmol, 1.98 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | ethyl 5-amino-1,3,4-thiadiazole-2-carboxylate | 7.06 mmol, 1.2 g | NC1=NN=C(S1)C(=O)OCC | C5H7N3O2S
reactant | HCl | 2 M, 50 mL | Cl | ClH
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 5-(4-Acetamidophenylsulfonamido)-1,3,4-thiadiazole-2-carboxylate | 73% yield | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NC1=NN=C(S1)C(=O)OCC | C13H14N4O5S2
